US07459562B2
E) 1-(4-(6-(4-Methoxybenzylamino)pyrimidin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea
A solution of N-(4-methoxybenzyl)-6-(4-amino-2-fluorophenoxy)pyrimidin-4-amine (88 mg, 0.26 mmol) in THF (2 mL) was treated with 0.36 M 2-(4-fluorophenyl)acetyl isocyanate in toluene (0.72 mL, 0.26 mmol) and the reaction mixture was stirred at RT for 1 h. The mixture was concentrated in vacuo and the solid obtained was triturated with isopropyl ether to give the title compound (125 mg, 93%) as an off-white solid. 1H NMR (DMSO-d6) δ 11.00 (s, 1H), 10.50 (s, 1H), 8.09 (s, 1H), 7.85 (br s, 0.5H), 7.66 (d, 1H, J=12.6 Hz), 7.36-7.15 (m, 9.5H), 6.88 (d, 1H, J=8.1 Hz), 5.91 (s, 1H), 4.42 (br s, 2H), 3.72 (s, 2H), 3.71 (s, 3H); MS(ESI+) m/z 520.14 (M+H)+.

reactant | N-(4-methoxybenzyl)-6-(4-amino-2-fluorophenoxy)pyrimidin-4-amine | 0.26 mmol, 88 mg | COC1=CC=C(CNC2=NC=NC(=C2)OC2=C(C=C(C=C2)N)F)C=C1 | C18H17FN4O2
reactant | 2-(4-fluorophenyl)acetyl isocyanate | 0.36 M | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
reactant | toluene | 0.26 mmol, 0.72 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(4-(6-(4-Methoxybenzylamino)pyrimidin-4-yloxy)-3-fluorophenyl)-3-(2-(4-fluorophenyl)acetyl)urea | 125 mg, 93% | COC1=CC=C(CNC2=CC(=NC=N2)OC2=C(C=C(C=C2)NC(=O)NC(CC2=CC=C(C=C2)F)=O)F)C=C1 | C27H23F2N5O4
